US08058045B2
4,6-Dichloropyrimidine (284 mg, 1.9 mmol), N-Boc-4-aminomethyl piperidine (409 mg, 1.9 mmol) and potassium carbonate (317 mg, 2.3 mmol) were dissolved in acetonitrile (5 mL) and the solution was heated for 30 minutes at 120° C. using microwave irradiation. The reaction mixture was partitioned between water and dichloromethane and the aqueous phase was extracted with dichloromethane. The combined organic phases were dried (Na2SO4) and evaporated to give tert-butyl 4-((6-chloropyrimidin-4-ylamino)methyl)-piperidine-1-carboxylate (656 mg, 100%) as a yellow oil which was used without further purification.

reactant | 4,6-Dichloropyrimidine | 1.9 mmol, 284 mg | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | N-Boc-4-aminomethyl piperidine | 1.9 mmol, 409 mg | C(=O)(OC(C)(C)C)N1CCC(CC1)CN | C11H22N2O2
reactant | potassium carbonate | 2.3 mmol, 317 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | tert-butyl 4-((6-chloropyrimidin-4-ylamino)methyl)-piperidine-1-carboxylate | 656 mg, 100% | ClC1=CC(=NC=N1)NCC1CCN(CC1)C(=O)OC(C)(C)C | C15H23ClN4O2
